US07790751B2
A solution of 3-(naphthalene-1-sulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole (73.4 mg, 0.187 mmol) in CH3CN was treated with 37% aqueous formaldehyde (0.15 mL, 2.0 mmol) and sodium triacetoxyborohydride (92.1 mg, 0.435 mmol), stirred for 3 hours at ambient temperatures and partitioned in chloroform and 1.0 N sodium hydroxide. The phases were separated; the organic phase was washed with brine, treated with methanol to aid in solubility, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 0.3% ammonium hydroxide/3.0% methanol in chloroform to give 5-(1-methyl-pyrrolidin-3-yloxy)-3-(naphthalene-1-sulfonyl)-1H-indazole as a light orange foam, 28.8 mg (37.9% yield). The foam was taken up in methanol and chloroform, treated with isopropanolic HCl and concentrated in vacuo at 84° C. for 14 hours to yield the title product as a light orange foam, 27.2 mg, Mass spectrum (+EI, [M+H]+) m/z 408. 1HNMR (500 MHz, DMSO-d6): δ14.20 (s, 1H), 10.38-10.60 (br, 1H), 8.74 (d, 1H, J=8.66 Hz), 8.54-8.56 (m, 1H), 8.28 (d, 1H, J=8.30 Hz), 8.03-8.05 (m, 1H), 7.71-7.75 (m, 1H), 7.56-7.65 (m, 3H), 7.28 (d, 1H, J=2.20 Hz), 7.12 (dd, 1H, J=9.15 Hz and 2.32 Hz), 5.22 (s, 1H), 3.31-3.74 (m*, 3H), 2.85 (s, 3H), 2.03-2.12 ppm (m, 1H). *Conformational isomers due to protonation of tertiary amine.

reactant | 3-(naphthalene-1-sulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole | 0.187 mmol, 73.4 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CNCC1 | C21H19N3O3S
reactant | formaldehyde | 2.0 mmol, 0.15 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.435 mmol, 92.1 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH3CN | CC#N | C2H3N
product | 5-(1-methyl-pyrrolidin-3-yloxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | 37.9% yield | CN1CC(CC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C22H21N3O3S
